US07012075B2
To 4-methoxybenzyl N-[4-bromo-1-(tert-butoxycarbonyl)-1H-pyrazol-3-yl]-N-[(2,2,2-trichloroethoxy)carbonyl]leucinate (2.38 g, 3.54 mmol) in THF (40 mL) was added activated zinc powder (2.3 g, 35.4 mmol) and an aqueous solution of KH2PO4 (1.0 M, 14.2 mL, 14.2 mmol) dropwise. After 1 hour additional aliquots of activated zinc powder (2.3 g, 35.4 mmol) and aqueous KH2PO4 solution were added (1.0 M, 14.2 mL, 14.2 mmol) and the reaction mixture was stirred for 1 hour. The zinc powder was filtered off, rinsed with Et2O and water and the product extracted with ether (2×), dried over Na2SO4, concentrated in vacuo, and purified by flash chromatography over silica gel (EtOAc/Hex, 3/7) to afford 4-methoxybenzyl N-[4-bromo-1-(tert-butoxycarbonyl)-1H-pyrazol-3-yl]leucinate.

reactant | 4-methoxybenzyl N-[4-bromo-1-(tert-butoxycarbonyl)-1H-pyrazol-3-yl]-N-[(2,2,2-trichloroethoxy)carbonyl]leucinate | 3.54 mmol, 2.38 g | BrC=1C(=NN(C1)C(=O)OC(C)(C)C)N([C@@H](CC(C)C)C(=O)OCC1=CC=C(C=C1)OC)C(=O)OCC(Cl)(Cl)Cl | C25H31BrCl3N3O7
reactant | KH2PO4 | 14.2 mmol, 1.0 M, 14.2 mL | OP(=O)(O)[O-].[K+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
catalyst | zinc | 35.4 mmol, 2.3 g | [Zn] | Zn
catalyst | zinc | 35.4 mmol, 2.3 g | [Zn] | Zn
product | 4-methoxybenzyl N-[4-bromo-1-(tert-butoxycarbonyl)-1H-pyrazol-3-yl]leucinate | BrC=1C(=NN(C1)C(=O)OC(C)(C)C)N[C@@H](CC(C)C)C(=O)OCC1=CC=C(C=C1)OC | C22H30BrN3O5
